US04826852
One millimole of 9,10-didehydro-1,6-dimethylergoline-8α-amine is reacted with 1,1'-thiocarbonyldiimidazole and diethylamine, as described in Example 11, to 3-(9,10-didehydro-1,6-dimethyl-8α-ergolinyl)-1,1-diethylthioruea. After chromatography, 3-(9,10-didehydro-1,6-dimethyl-8α-ergolinyl)-1,1-diethylthiourea is obtained in a 67% yield. By dissolution with the equivalent quantity of L-tartaric acid in methylene chloride and methanol, 3-(9,10-didehydro-1,6-dimethyl-8α-ergolinyl)-1,1-diethylthiourea tartrate is obtained.

reactant | 9,10-didehydro-1,6-dimethylergoline-8α-amine | One millimole | CN1C=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C1C32)N)C | C16H19N3
reactant | 1,1'-thiocarbonyldiimidazole | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | diethylamine | C(C)NCC | C4H11N
product | 3-(9,10-didehydro-1,6-dimethyl-8α-ergolinyl)-1,1-diethylthiourea | 67% yield | CN1C=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C1C32)NC(N(CC)CC)=S)C | C21H28N4S
